US06197748B1
Preparation of H—(D)-Arg(Tos)-Gly-OBn
A 1 g portion of Boc-(D)-Arg(Tos)-Gly-OBn (1.74 mmol) was dissolved in 10 mL of CH2Cl2, cooled to 0° C. and treated with 10 mL of TFA. The solution was stirred at 0° C. for 3 h. Solvent and excess TFA were evaporated thoroughly to give the title compound as an oil which was used directly in Example 10.

reactant | Boc-(D)-Arg(Tos)-Gly-OBn | 1.74 mmol | N([C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C27H37N5O7S
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | H—(D)-Arg(Tos)-Gly-OBn | N[C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)NCC(=O)OCC1=CC=CC=C1 | C22H29N5O5S
